US06586441B2
2-Amino-4-(4-methyl-pyrazol-1-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile
From 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile, 4-methyl-pyrazole and cesium carbonate in NMP. EI-MS m/e (%): 246 (M+, 85), 245 ([M—H]+, 100).

reactant | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
reactant | 4-methyl-pyrazole | CC=1C=NNC1 | C4H6N2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2-Amino-4-(4-methyl-pyrazol-1-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N1N=CC(=C1)C)C#N)SC | C10H10N6S
